US06828460B2
4-(4-Methylenecyclohexyl)-1,3-benzenediol
Tetrabutylammonium fluoride (230 μl) was added to a stirred solution of tert-butyl-[3-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-methylenecyclohexyl)phenoxy](isopropyl)dimethylsilane (40 mg) in tetrahydrofuran (2 ml) at room temperature. After 24 hr, further tetrabutylammonium fluoride (50 μl) was added, and after 2 hr the solvent was removed under reduced pressure. The residue was partitioned between water (20 ml) and ethyl acetate (20 ml). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×20 ml). The combined organic extracts were washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 2:3 v/v) to give the title compound as a white solid (17 mg, 90%). δH(CD3OD) 1.25-1.40 (2H, m), 1.75-1.82 (2H, m), 2.04-2.15 (2H, m), 2.22-2.30 (2H, m), 2.86 (1H, tt), 3.20 (1H, m), 4.50 (2H, s), 6.10-6.16 (2H, m), 6.72 (1H, d); m/z (ES+) 205 (M+H)+.

reactant | Tetrabutylammonium fluoride | 230 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tert-butyl-[3-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-methylenecyclohexyl)phenoxy](isopropyl)dimethylsilane | 40 mg | C(C)(C)(C)C[Si](C)(C(C)C)OC1=C(C(=CC=C1)O[Si](C)(C)C(C)(C)C)C1CCC(CC1)=C | C28H50O2Si2
reactant | tetrabutylammonium fluoride | 50 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(4-Methylenecyclohexyl)-1,3-benzenediol | 17 mg, 90% | C=C1CCC(CC1)C1=C(C=C(C=C1)O)O | C13H16O2
